US04282361
PREPARATION OF 3-METHYLPYRAZOLE-5-CARBOXYLIC ACID
A mixture of 3,5-dimethylpyrazole (5.19 g, 54 mmol) and potassium permanganate (9.0 g, 57 mmol) in water (40 ml) was heated on the steam bath until the purple color had practically disappeared (about 15 min.). The second portion of potassium permanganate (9.0 g, 57 mmol) was added slowly, allowing time for complete decolorization before each addition. A very exothermic reaction accompanied by some foaming occurred. The reaction mixture was filtered while hot and the maganese dioxide was washed with boiling water (4×20 ml). The filtrate was concentrated in vacuo and concentrated hydrochloric acid was added (5 ml), lowering the pH to 3-3.5. The reaction mixture was evaporated to dryness and exhaustive trituration with boiling, absolute ethanol afforded, after recrystallization from absolute ethanol, 5.1 g (75%) of the acid.

reactant | 3,5-dimethylpyrazole | 54 mmol, 5.19 g | CC1=NNC(=C1)C | C5H8N2
reactant | potassium permanganate | 57 mmol, 9.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 57 mmol, 9.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 40 ml | O | H2O
product | 3-METHYLPYRAZOLE-5-CARBOXYLIC ACID | CC1=NNC(=C1)C(=O)O | C5H6N2O2
